US08426411B2
To a vessel containing a slurry of 20 wt % Pd(OH)2 on C (12.9 g, 18.4 mmol) in EtOH (1.0 L) was added ethyl 4-(dibenzylamino)-2-ethylcyclopentanecarboxylate (129 g, 352 mmol, Preparation #X.1). The reaction was shaken for about 90 min at about 50° C. under about 30 psi of hydrogen. After removal of the hydrogen source and introduction of a nitrogen atmosphere, the resulting mixture was filtered through a pad of Celite® and the filtrate was concd under reduced pressure to give ethyl 4-amino-2-ethylcyclopentanecarboxylate (64.5 g, 99%) as a yellow syrup: 1H NMR (CDCl3) δ 4.03-3.88 (m, 2H), 3.17 (m, 1H), 2.68 (m, 1H), 2.09-2.02 (m, 2H), 2.02-1.94 (m, 2H), 1.84 (m, 1H), 1.58-1.48 (m, 1H), 1.32-1.18 (m, 1H), 1.09 (m, 3H), 1.03 (m, 2H), 0.78-0.69 (m, 3H).

reactant | ethyl 4-(dibenzylamino)-2-ethylcyclopentanecarboxylate | 352 mmol, 129 g | C(C1=CC=CC=C1)N(C1CC(C(C1)C(=O)OCC)CC)CC1=CC=CC=C1 | C24H31NO2
reactant | hydrogen | [H][H] | H2
solvent | EtOH | 1.0 L | CCO | C2H6O
catalyst | Pd(OH)2 | [OH-].[OH-].[Pd+2]
product | ethyl 4-amino-2-ethylcyclopentanecarboxylate | 64.5 g, 99% | NC1CC(C(C1)C(=O)OCC)CC | C10H19NO2
